2173-02-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-2-24**] 05:38 PM
   [**2173-2-24**] Events:
   - Held dilantin for elevated level, check in AM and restart 360mg of
   dilantin QHS if wnl
   - getting ruled out for TB, [**1-30**] sputum cultures done
   - ID approval for vanc for possible HAP vs. VAP vs. aspiration.
   - Pt received lasix 40mg IV x 2 with good UOP
   - Code Purple because trying to leave,agitated, received 2mg of haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-24**] 08:15 PM
   Piperacillin - [**2173-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-2-24**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 103 (78 - 103) bpm
   BP: 125/75(86) {103/36(53) - 136/89(94)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.8 kg (admission): 108 kg
   Height: 70 Inch
             Total In:
                                                                    300 mL
                                                                    400 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    480 mL
   Urine:
                                                                    770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General: Alert, oriented to person, but not to place or time
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP at jaw, no LAD
   Lungs: diffuse inspiratory and expiratory wheezes throughout improved
   from yesterday, some scarce crackles at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, +trace
   edema
   Labs / Radiology
   267 K/uL
   12.9 g/dL
   127 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.1 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   34.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2173-2-22**]  09:29 AM
                             [**2173-2-22**]  05:24 PM
                             [**2173-2-22**]  05:42 PM
                             [**2173-2-23**]  12:01 AM
                             [**2173-2-23**]  01:39 AM
                             [**2173-2-23**]  03:00 AM
                             [**2173-2-23**]  03:07 AM
                             [**2173-2-23**]  06:20 AM
                             [**2173-2-24**]  01:57 PM
                             [**2173-2-25**]  02:22 AM
   WBC
   7.2
   6.4
   Hct
   28.5
   28.8
   32.2
   34.5
   Plt
   205
   267
   Cr
   0.9
   0.9
   TropT
   0.24
   0.14
   TCO2
   24
   25
   27
   28
   30
   Glucose
   128
   127
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:135/3/0.14, ALT / AST:18/32, Alk Phos / T Bili:101/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:198 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 66 y/o M hx seizures from EEE encephalitis p/w status c/b
   aspiration PNA, intubated in NICU, and NSTEMI and extubated on [**2-21**].
   Transferred to floor on [**2-24**] and continues to have some mild
   respiratory distress, tachypnea.
   .
   # Resp distress:   Most likely multifactorial from CHF given globally
   decreased EF, evidence of volume overload, elevated BNP, improvement
   following lasix and multilobar pneumonia.  Pneumonia either VAP, HAP or
   most likely aspiration in etiology.  Question of TB exposure, however
   least likely to contribute to picture
   - continue diuresis with goal 2L today, will likely need 40mg IV lasix
   [**Hospital1 **], PM lytes
   - continue nebs prn
   - continue to treat aspiration PNA and complete 10 day course
   Vanc/Zosyn, day 1 [**2173-2-20**]
   - 3 induced sputums to rule out TB, then can discontinue negative
   pressure room
   .
   # Seizures:  Secondary to EEE.
   - appreciate neuro recs
   - monitor on tele
   - check PHT levels daily
   - continue current doses of keppra, & klonopin
   - sz precautions and ativan PRN for sz > 3 min
   - Hold dilantin as level elevated
   .
   # NSTEMI/CHF: Had NSTEMI in setting of status on [**2-19**] and s/p 4 days of
   hep gtt stopped on [**2-20**]. Trops still elevated but trending downward. ?
   of troponin leak as demand ischemia. [**2-20**] TTE shows global hypokinesis
   (EF=20-25%); however, there has been some debate regarding low EF due
   to ischemia vs stress
   - continue ASA 325, metoprolol, statin and ACEI
   - repeat Echo today, follow results
   - monitor on tele
   .
   # HTN:
   - cont metoprolol and ACEI as above
   .
   # Dyslipidemia:
   - continue statin
   .
   # FEN/GI:
   - appreciate S&S eval recs
   - stop IVF and diuresis as above
   - recheck lytes this afternoon given aggressive diuresis
   .
   # PPX:
   - protonix, SQ heparin
   - fall, aspiration, DTs and seizure precautions
   - IVF as above, thiamine and folate
   .
   # ACCESS:
   - left subclavian, will discontinue and place peripheral lines
   .
   # FULL CODE:
   -contact is [**Name (NI) 121**] [**Name (NI) 4231**] (daughter) [**Telephone/Fax (1) 4326**]
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 .H/O ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Regular, heart healthy diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-2-24**] 05:38 PM
   Prophylaxis:
   DVT:  Heparin SC TID
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  Call out to the floor today

2173-02-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-2-24**] 05:38 PM
   [**2173-2-24**] Events:
   - Held dilantin for elevated level, check in AM and restart 360mg of
   dilantin QHS if wnl
   - getting ruled out for TB, [**1-30**] sputum cultures done
   - ID approval for vanc for possible HAP vs. VAP vs. aspiration.
   - Pt received lasix 40mg IV x 2 with good UOP
   - Code Purple because trying to leave, received 2mg of haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-24**] 08:15 PM
   Piperacillin - [**2173-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-2-24**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 103 (78 - 103) bpm
   BP: 125/75(86) {103/36(53) - 136/89(94)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.8 kg (admission): 108 kg
   Height: 70 Inch
             Total In:
                                                                    300 mL
                                                                    400 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    480 mL
   Urine:
                                                                    770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General: Alert, oriented, able to speak in short sentences, but
   tachypnic
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP at jaw, no LAD
   Lungs: diffuze inspiratory and expiratory wheezes throughout, some
   scarce crackles at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, +trace
   edema
   Labs / Radiology
   267 K/uL
   12.9 g/dL
   127 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.1 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   34.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2173-2-22**]  09:29 AM
                             [**2173-2-22**]  05:24 PM
                             [**2173-2-22**]  05:42 PM
                             [**2173-2-23**]  12:01 AM
                             [**2173-2-23**]  01:39 AM
                             [**2173-2-23**]  03:00 AM
                             [**2173-2-23**]  03:07 AM
                             [**2173-2-23**]  06:20 AM
                             [**2173-2-24**]  01:57 PM
                             [**2173-2-25**]  02:22 AM
   WBC
   7.2
   6.4
   Hct
   28.5
   28.8
   32.2
   34.5
   Plt
   205
   267
   Cr
   0.9
   0.9
   TropT
   0.24
   0.14
   TCO2
   24
   25
   27
   28
   30
   Glucose
   128
   127
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:135/3/0.14, ALT / AST:18/32, Alk Phos / T Bili:101/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:198 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 66 y/o M hx seizures from EEE encephalitis p/w status c/b
   aspiration PNA, intubated in NICU, and NSTEMI and extubated on [**2-21**].
   Transferred to floor on [**2-24**] and continues to have some mild
   respiratory distress, tachypneia. At this point, he has improved and
   appears more comfortable after diuresis.
   .
   # Resp distress: Suspect CHF given low EF after MI and possible
   component of residual PNA. Based on RN reports and clinical hx, I am
   less concerned for new pulm infection as no fever, white count. He had
   improved markedly with diuresis and nebs. He does not appear to have
   underlying pulm disease (non-smoking). other differntial includes other
   infection (he is being ruled out for TB but very questionable exposure
   hx - dgtr reported that her boyfriend had TB), PE (he has no pleuritic
   pain, not tachy; however, had not been on DVT ppx for past 4 days)
   - continue diuresis with goal 2L today
   - continue nebs
   - check BNP
   - no need for steroids at this point, as I suspect his wheezes are
   cardiogenic
   - if continued hypoxia, consider CTA to eval for PE, although less
   clinical suspicion
   - continue to treat aspiration PNA and complete 10 day course
   Vanc/Zosyn
   - consider trial non-invasive ventilation if contiues to tire
   - would strongly consider taking off TB precuations as highly unlikely
   for this to be the cause of his resp distress
   .
   # Seizures:
   - appreciate neuro recs
   - moniton on tele
   - check PHT levels daily
   - continue current doses of dilantin, keppra, & klonopin
   - sz precautions and ativan PRN for sz > 3 min
   .
   # NSTEMI/CHF: Had NSTEMI in setting of status on [**2-19**] and s/p 4 days of
   hep gtt stopped on [**2-20**]. Trops still elevated but trending downward. ?
   of troponin leak as demand ischemia. [**2-20**] TTE shows global hypokinesis
   (EF=20-25%); however, there has been some debate regarding low EF due
   to ischemia vs stress
   - continue ASA 325
   - continue metoprolol
   - if BPs stable, woud start low dose ACEI to decrease afterload
   - consider repeat Echo given ? if stress induced cardiomyopthy vs.
   post-MI
   - monitor on tele
   .
   # HTN:
   - cont metoprolol and consider start ACEI as above
   .
   # Dyslipidemia:
   - continue statin
   .
   # FEN/GI:
   - appreciate S&S eval recs
   - stop IVF and diuresis as above
   - recheck lytes this afternoon given aggressive diuresis
   .
   # PPX:
   - protonix
   - needs SQ heparin
   - fall, aspiration, DTs and seizure precautions
   - IVF as above, thiamine and folate
   .
   # ACCESS:
   - left subclavian
   .
   # FULL CODE:
   -contact is [**Name (NI) 121**] [**Name (NI) 4231**] (daughter) [**Telephone/Fax (1) 4326**]
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 .H/O ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-2-24**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2173-02-25 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2173-2-24**] 05:38 PM
   [**2173-2-24**] Events:
   - Held dilantin for elevated level, check in AM and restart 360mg of
   dilantin QHS if wnl
   - getting ruled out for TB, [**1-30**] sputum cultures done
   - ID approval for vanc for possible HAP vs. VAP vs. aspiration.
   - Pt received lasix 40mg IV x 2 with good UOP
   - Code Purple because trying to leave,agitated, received 2mg of haldol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2173-2-24**] 08:15 PM
   Piperacillin - [**2173-2-25**] 12:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2173-2-24**] 08:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2173-2-25**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 103 (78 - 103) bpm
   BP: 125/75(86) {103/36(53) - 136/89(94)} mmHg
   RR: 31 (15 - 31) insp/min
   SpO2: 90%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113.8 kg (admission): 108 kg
   Height: 70 Inch
             Total In:
                                                                    300 mL
                                                                    400 mL
   PO:
                                                                    100 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    200 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                    770 mL
                                                                    480 mL
   Urine:
                                                                    770 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///31/
   Physical Examination
   General: Alert, oriented to person, but not to place or time
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP at jaw, no LAD
   Lungs: diffuse inspiratory and expiratory wheezes throughout improved
   from yesterday, some scarce crackles at bases
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis, +trace
   edema
   Labs / Radiology
   267 K/uL
   12.9 g/dL
   127 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.1 mEq/L
   7 mg/dL
   105 mEq/L
   143 mEq/L
   34.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2173-2-22**]  09:29 AM
                             [**2173-2-22**]  05:24 PM
                             [**2173-2-22**]  05:42 PM
                             [**2173-2-23**]  12:01 AM
                             [**2173-2-23**]  01:39 AM
                             [**2173-2-23**]  03:00 AM
                             [**2173-2-23**]  03:07 AM
                             [**2173-2-23**]  06:20 AM
                             [**2173-2-24**]  01:57 PM
                             [**2173-2-25**]  02:22 AM
   WBC
   7.2
   6.4
   Hct
   28.5
   28.8
   32.2
   34.5
   Plt
   205
   267
   Cr
   0.9
   0.9
   TropT
   0.24
   0.14
   TCO2
   24
   25
   27
   28
   30
   Glucose
   128
   127
   Other labs: PT / PTT / INR:12.9/25.4/1.1, CK / CKMB /
   Troponin-T:135/3/0.14, ALT / AST:18/32, Alk Phos / T Bili:101/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.5 g/dL, LDH:198 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 66 y/o M hx seizures from EEE encephalitis p/w status c/b
   aspiration PNA, intubated in NICU, and NSTEMI and extubated on [**2-21**].
   Transferred to floor on [**2-24**] and continues to have some mild
   respiratory distress, tachypnea.
   .
   # Resp distress:   Most likely multifactorial from CHF given globally
   decreased EF, evidence of volume overload, elevated BNP, improvement
   following lasix and multilobar pneumonia.  Pneumonia either VAP, HAP or
   most likely aspiration in etiology.  Question of TB exposure, however
   least likely to contribute to picture
   - continue diuresis with goal 2L today, will likely need 40mg IV lasix
   [**Hospital1 **]
   - continue nebs prn
   - continue to treat aspiration PNA and complete 10 day course
   Vanc/Zosyn, day 1 [**2173-2-20**]
   - 3 induced sputums to rule out TB, then can discontinue negative
   pressure room
   .
   # Seizures:  Secondary to EEE.
   - appreciate neuro recs
   - monitor on tele
   - check PHT levels daily
   - continue current doses of keppra, & klonopin
   - sz precautions and ativan PRN for sz > 3 min
   - Hold dilantin as level elevated
   .
   # NSTEMI/CHF: Had NSTEMI in setting of status on [**2-19**] and s/p 4 days of
   hep gtt stopped on [**2-20**]. Trops still elevated but trending downward. ?
   of troponin leak as demand ischemia. [**2-20**] TTE shows global hypokinesis
   (EF=20-25%); however, there has been some debate regarding low EF due
   to ischemia vs stress
   - continue ASA 325
   - continue metoprolol
   - started ACEI yesterday
   - repeat Echo today?
   - monitor on tele
   .
   # HTN:
   - cont metoprolol and ACEI as above
   .
   # Dyslipidemia:
   - continue statin
   .
   # FEN/GI:
   - appreciate S&S eval recs
   - stop IVF and diuresis as above
   - recheck lytes this afternoon given aggressive diuresis
   .
   # PPX:
   - protonix
   - needs SQ heparin
   - fall, aspiration, DTs and seizure precautions
   - IVF as above, thiamine and folate
   .
   # ACCESS:
   - left subclavian
   .
   # FULL CODE:
   -contact is [**Name (NI) 121**] [**Name (NI) 4231**] (daughter) [**Telephone/Fax (1) 4326**]
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 .H/O ENCEPHALITIS
 HYPOTENSION (NOT SHOCK)
 PNEUMONIA, ASPIRATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2173-2-24**] 05:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: